US04166119
A stirred mixture of 5.0 g of 2,3-dihydrospiro[benzofuran-2,4'-piperidine], Example 7, and 15 g of sodium bicarbonate in 75 ml of chloroform is treated with a mixture of 8.8 g of 3,4,5-trimethoxybenzoyl chloride in 125 ml of chloroform according to the procedure of Example 7 to provide a tan solid. The solid is sequentially recrystallized from ethyl alcohol, chromatographed through a silica gel column with a 2% methyl alcohol in chloroform eluant and recrystallized from ethyl alcohol to give the product, 2,3-dihydro-1'-(3,4,5-trimethoxybenzoyl)spiro[benzofuran-2,4'-piperidine], mp 148°-150° C.

reactant | 2,3-dihydrospiro[benzofuran-2,4'-piperidine] | 5.0 g | N1CCC2(CC1)OC1=C(C2)C=CC=C1 | C12H15NO
reactant | sodium bicarbonate | 15 g | C([O-])(O)=O.[Na+]
reactant | 3,4,5-trimethoxybenzoyl chloride | 8.8 g | COC=1C=C(C(=O)Cl)C=C(C1OC)OC | C10H11ClO4
solvent | chloroform | 75 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 125 ml | C(Cl)(Cl)Cl | CHCl3
product | 2,3-dihydro-1'-(3,4,5-trimethoxybenzoyl)spiro[benzofuran-2,4'-piperidine] | COC=1C=C(C(=O)N2CCC3(CC2)OC2=C(C3)C=CC=C2)C=C(C1OC)OC | C22H25NO5
